
*74LS27 MCE Nodes: A,B,C,Y
*MCE mixed-mode 3-input NOR gate pkg:DIP14 (A:1,2,13,12)(B:3,4,5,6)(C:9,10,11,8)
.SUBCKT X74LS27 1 2 3 4
BNLVs1 5 0 V=~(V(1) | v(2) | v(3))
R1 5 4 1
C1 4 0 .004uF IC=0V
.ENDS X74LS27
